Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ otherwise healthy who presents with back pain. The back pain 
started ___ ago when he was shoveling snow and he 
experienced sudden-onset lower-back pain which he attributed to 
muscle strain. He used heat pad, NSAIDs and pain improved 
slightly. He saw his PCP was told this was muscular pain. Two 
days ago he was at the gas station and he twisted and felt 
worsening pain and then fell onto his knees and his pain 
worsened. He had difficulty ambulating and was brought to an 
___ where Xray showed T12 compression 
fracture. Given the patient needed further imaging, ideally MRI 
he was transferred to ___ 

He denies fevers/chills/constitutional symptoms, denies weight 
loss, bowel, bladder incontinence no muscle weakness

In the ED, initial vitals:  98.3 86 127/75 16 100% RA :
- Imaging notable for: CT L spine notable for Loss of vertebral 
body heights at the T8, T11 and T12 levels of approximately 30% 
anteriorly. Small prevertebral hematoma at the T11 is noted
concerning for acute process. Minimal retropulsion of the 
superior endplate with mild effacement of thecal sac.
- Pt was given: oxycodone, diazepam, morphine
- Vitals prior to transfer:  84 133/85 20 99% RA 
Ortho was consulted and felt the patient could be discharged 
after adequate pain control and there was no need for surgical 
intervention.
___ was also consulted and pt was able to ambulate
Ultimately the patient was admited for pain control

On arrival to the floor, pt reports pain and difficulty 
ambulating and moveing in bed because of the pain.

 
Past Medical History:
no other medical problems 

 
Social History:
___
Family History:
n/c
 
Physical Exam:
ADMISSION PHYSICAL EXAM
97.5 114/83 83 16 96%ra
General: appears to be in pain, dry mucous membranes
HEENT: dry mucous membranes
Lungs: clear to auscultation b/l
CV: RRR no murmurs or rubs 
Abdomen: non tender non distended positive bowel sounds 
Ext: no ___ edema 
Neuro: normal stregnth but exam some what limited bc of pain in 
___: back tenderness along T7-S1, neg straight leg
.
Discharge PE:
afebrile 110-140s/70-90s, 90-110, 95% RA
General: calm, lying flat in bed in NAD
CV: RRR, no murmurs
Lungs: CTAB anterolaterally
Abdomen: soft, NT, ND, +BS
Ext: no ___ edema
Neuro: ___ strength at ankles, intact sensation in ___

 
Pertinent Results:
ADMISSION LABS
___ 02:15AM BLOOD WBC-6.5 RBC-4.21* Hgb-13.0* Hct-35.8* 
MCV-85 MCH-31.0 MCHC-36.4* RDW-13.1 Plt ___
___ 02:15AM BLOOD Neuts-72.2* ___ Monos-7.5 Eos-0.4 
Baso-0.5
___ 02:15AM BLOOD Glucose-100 UreaN-20 Creat-1.1 Na-139 
K-3.5 Cl-101 HCO3-23 AnGap-19
___ 02:15AM BLOOD Calcium-10.6* Phos-3.1 Mg-2.1
___ 02:15AM BLOOD CRP-0.6
 
RELEVANT INTERIM LABS
___ 10:30AM BLOOD Calcium-10.6* Iron-43*
___ 10:30AM BLOOD calTIBC-274 VitB12-497 Ferritn-351 
TRF-211
___ 02:15AM BLOOD PTH-17
___ 02:15AM BLOOD Testost-796 25VitD-7*
___ 02:15AM BLOOD CRP-0.6 PSA-0.8
___ 02:15AM BLOOD PEP-ABNORMAL B IgG-465* IgA-2219* IgM-77 
IFE-MONOCLONAL
ABNORMAL BAND IN GAMMA REGION
BASED ON IFE (SEE SEPARATE REPORT),
IDENTIFIED AS MONOCLONAL IGA KAPPA
NOW REPRESENTS, BY DENSITOMETRY, ROUGHLY
21% (1850 MG/DL) OF TOTAL PROTEIN
INTERPRETED BY ___, MD
.
___ 10:30AM BLOOD Fr K/L-PND
___ 02:15AM BLOOD tTG-IgA-20*
.
>> IMAGING
L-spine CT ___
1. Diffuse demineralization.
2. Loss of vertebral body heights at the T8, T11 and T12 levels 
of
approximately 30% anteriorly. Small prevertebral hematoma at the 
T11 is noted concerning for acute process. Minimal retropulsion 
of the superior endplate with mild effacement of thecal sac.
3. Small hiatal hernia.
4. Markedly distended bladder.
.
MRI L- AND T-SPINE: 
IMPRESSION:  
There is diffuse enhancement of the vertebral bodies throughout 
the spine 
after contrast administration . In the setting of myeloma and 
given the 
diffuse demineralization noted on the CT, this finding strongly 
suggests 
diffuse tumor infiltration 
.
SKELETAL SURVEY: 
1. Multiple compression deformities in the spine as detailed 
above. These are  nonspecific and may be due to demineralization 
or neoplastic infiltration.  A  definite lytic lesion is not 
identified in the spine. 
2. There is a possible lucent lesion left proximal femur. 

>> DISCHARGE LABS
___ 06:25AM BLOOD WBC-6.2 RBC-4.32* Hgb-13.5* Hct-37.6* 
MCV-87 MCH-31.4 MCHC-36.0* RDW-13.2 Plt ___
___ 06:25AM BLOOD UreaN-8 Creat-1.2 Na-143 K-3.6 Cl-103 
HCO3-26 AnGap-18
___ 06:25AM BLOOD Calcium-10.9* Phos-4.___ otherwise healthy who presents with back pain, found to have 
multiple compression fractures, with workup which revealed 
monoclonal IgA kappa gammopathy.
.
>> ACTIVE ISSUES
# Monoclonal IgA kappa gammopathy: found on SPEP as part of 
workup for pathologic fractures (associated with elevated 
quantitative IgA and suppressed IgG), concerning for 
MGUS/multiple myeloma. Pt with associated mild normocytic anemia 
and mild hypercalcemia.  UPEP without evidence of protein. Free 
light chains pending at time of discharge. Renal function wnl. 
Patient underwent skeletal survey, as well as further MRI 
thoracic and lumbar spine. Skeletal survery with multiple 
compression deformities in the spine described as nonspecific 
and may be due to demineralization or neoplastic infiltration.  
No definite lytic lesion was identified in the spine. A possible 
lucent lesion was seen in the left proximal femur. MRI 
demonstrated   diffuse enhancement of the vertebral bodies 
throughout the spine strongly suggestive of diffuse tumor 
infiltration 
He was set up to see oncology in close f/u as an outpatient on 
___.  
[] Follow-up free light chains pending at time of discharge.
.
# T8,T11, and T12 compression fractures: Ortho/spine was 
consulted and felt there was no indication for surgery. 
Follow-up MRI spine, ordered prior to discharge in oncologic 
work-up for lytic lesions, demonstrated progressive thoracic 
compression fracture. Reviewed imaging with ortho prior to d/c 
and again no surgical intervention needed. 
His pain was controlled with oxycodone, diazepam to relax his 
muscles and he wore a TLSO brace. He was evaluated by ___ who 
felt he was safe to go home.  Given compression fractures are 
very atypical in men who are ___ who and otherwise healthy a 
workup was started which ultimately revealed the above 
monoclonal IgA kappa.  He also had normal PSA, normal 
testosterone, low vit D (started on repletion), elevated Ca, 
normal PTH. Given insufficient pain control with frequent 
oxyocodone Q4H, low dose oxycontin was started prior to 
discharge. He was also discharged with PRN oxycodone and 
diazepam.
[] Consider bisphosphonate as an outpatient
.
# Hypercalcemia: relatively mild in 10.6-10.9 range. Could be 
related to myeloma per above. PTH on low side of normal 
suggesting mild suppression. Vit D low and so vit D 
supplementation prescribed for which Ca should be monitored 
closely in outpt f/u.
.
>> TRANSITIONAL ISSUES
# Free kappa/lambda, MRI reads and skeletal survey reads pending 
at time of discharge
# Pt to f/u with PCP and ___ onc
# Please continue to monitor pain control and adjust medications 
as needed
# Please monitor calcium levels at f/u and consider lowering Vit 
D supplementation if hypercalcemia worsens.
# PCP to arrange for spine f/u in the ___ system.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
You can get this over the counter. 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
2. Diazepam 5 mg PO Q6H:PRN ___ pain (helps spasm) 
RX *diazepam 5 mg 1 tab by mouth every six (6) hours Disp #*20 
Tablet Refills:*0
RX *diazepam [Valium] 5 mg 1 tablet by mouth every six (6) hours 
Disp #*28 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
4. Polyethylene Glycol 17 g PO DAILY:PRN constpation 
RX *polyethylene glycol 3350 [Powderlax] 17 gram/dose 1 
powder(s) by mouth daily Refills:*0
RX *polyethylene glycol 3350 17 gram 1 packet by mouth daily 
Disp #*30 Packet Refills:*0
5. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 caps by mouth twice a day Disp 
#*30 Capsule Refills:*0
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0
6. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth weekly on ___ Disp #*7 Capsule Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*84 Tablet Refills:*0
8. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0
9. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
This is a long acting pain medication. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
1. Monoclonal gammopathy
2. Vertebral compression fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,

  It was a pleasure caring for you at ___. You were admitted 
because of bone pain and were found to have multiple small 
fractures in the bones of your spine, called compression 
fractures. You were seen by the spine doctors who did not feel 
you needed surgery. You were given pain meds and evaluated by 
physical therapy and it was felt you were safe to be discharged 
home. Your bones overall were found to be thin on the CAT scan 
you had.  It is unusual to see fractures of this nature in 
someone of your age and gender.  Therefore, you underwent workup 
with additional testing to check and see if there is an 
underlying disease that would cause your bones to be thin.  Your 
blood tests indicate that you have an abnormal protein, 
concerning for a cancer called multiple myeloma.  We did some 
extra blood tests and imaging to better evaluate this.  We have 
set you up with Dr. ___ in Oncology through ___, 
who will see you on ___ to discuss the plan going forward.

We also found an elevated "TTG" or transglutaminase antibody, 
which can indicate Celiac disease, but yours was very 
borderline. Please discuss with your doctor once all the lab 
results are back whether you should pursue further workup for 
Celiac.  We also found that your vitamin D is low (for which we 
started you on supplementation).

Because your calcium is slightly high, be sure to drink plenty 
of fluids at home.

Wear your back brace at home when out of bed with activity.

We wish you the best.
 
Followup Instructions:
___